US04906634
Example 7 N-[4-[4-Ethyl-3-[(2-methylpropoxy)methyl]piperazin-1-yl]phenyl]methanesulfonamide, dihydrochloride
To 5 mL of tetrahydrofuran under a nitrogen atmosphere add 2.6 g (6.8 mmol) of N-[4-[4-ethyl-5-[(2-methylpropoxy)methyl]-2-oxopiperazin-1-yl]phenyl]methanesulfonamide hydrochloride and 0.51 (13 mmol) of lithium aluminum hydride. When the additions are complete stir the reaction at reflux. Monitor the progress of the reaction by thin-layer chromatography on silica gel (CH2Cl2 :MeOH, 9:1). Upon completion of the reaction cool to room temperature and add 0.5 mL of H2O, 0.5 mL of 2N NaOH, 1.5 mL of H2O, and 50 mL of EtOAc. Remove the precipitate by suction filtration through celite and remove the solvent in vacuo. Chromatograph the residue on silica gel with CH2Cl2 :MeOH. Combine the product fractions and remove the solvent in vacuo. Dissolve the residue in methanolic HCl and remove the solvent in vacuo. Recrystallize the material from isopropanol to afford the title compound.

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | N-[4-[4-ethyl-5-[(2-methylpropoxy)methyl]-2-oxopiperazin-1-yl]phenyl]methanesulfonamide hydrochloride | 6.8 mmol, 2.6 g | Cl.C(C)N1CC(N(CC1COCC(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)=O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N, 0.5 mL | [OH-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 1.5 mL | O | H2O
solvent | H2O | 0.5 mL | O | H2O
product | N-[4-[4-Ethyl-3-[(2-methylpropoxy)methyl]piperazin-1-yl]phenyl]methanesulfonamide, dihydrochloride | Cl.Cl.C(C)N1C(CN(CC1)C1=CC=C(C=C1)NS(=O)(=O)C)COCC(C)C | InChI=1S/C18H31N3O3S.2ClH/c1-5-20-10-11-21(12-18(20)14-24-13-15(2)3)17-8-6-16(7-9-17)19-25(4,22)23;;/h6-9,15,18-19H,5,10-14H2,1-4H3;2*1H
